US07973164B2
Using an analogous procedure to that described in the portion of Example 17 that is concerned with the preparation of starting materials, 2-(4-benzyloxy-2-methoxyphenyl)acetic acid was reacted with 4-amino-1,3-dimethylpyrazole to give N-(1,3-dimethylpyrazol-4-yl)-2-(4-benzyloxy-2-methoxyphenyl)acetamide; 1H NMR: (CDCl3) 2.06 (s, 3H), 3.62 (s, 2H), 3.76 (s, 3H), 3.88 (s, 3H), 5.07 (s, 2H), 6.58 (m, 1H), 6.61 (d, 1H), 7.17 (d, 1H), 7.38 (m, 6H), 7.79 (s, 1H); Mass Spectrum: M+H+ 366; which material was hydrogenated to give N-(1,3-dimethylpyrazol-4-yl)-2-(4-hydroxy-2-methoxyphenyl)acetamide; 1H NMR: (DMSOd6) 2.09 (s, 3H), 3.44 (s, 2H), 3.68 (s, 3H), 3.7 (s, 3H), 6.28 (m, 1H), 6.37 (d, 1H), 6.93 (d, 1H), 7.76 (d, 1H), 9.23 (br s, 1H), 9.3 (br s, 1H); Mass Spectrum: M+H+ 276.

reactant | 2-(4-benzyloxy-2-methoxyphenyl)acetic acid | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC(=O)O)OC | C16H16O4
reactant | 4-amino-1,3-dimethylpyrazole | NC=1C(=NN(C1)C)C | C5H9N3
product | N-(1,3-dimethylpyrazol-4-yl)-2-(4-benzyloxy-2-methoxyphenyl)acetamide | CN1N=C(C(=C1)NC(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)OC)=O)C | C21H23N3O3
